US05223620
Production of 5-[4-(tert-butoxycarbonyl)phenyl]-5-hydroxy-2-hexenoic acid
To a suspension obtained by adding a solution of 4-acetylbenzoic acid tert-butyl ester (7.82 g) in benzene-ether-tetrahydrofuran (3:3:2, 80 ml) to 4.64 g (71 mmol) of zinc, were added gradually under heating and stirring 4-bromocrotonic acid methyl ester (6.36 g) and iodine (20 mg). After reflux under heating in an oil bath at 70° C. for 1 hour, methyl 4-bromocrotonate (2.13 g) and zinc (1.55 g) were added, followed by reflux under heating for 30 minutes. The temperature was cooled down to room temperature, and the reaction mixture was poured into water (300 ml) and adjusted to pH 5 with acetic acid. The organic layer obtained by extraction with ether was washed with 5% aqueous ammonia and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by column chromatography (support; silica gel, 200 g, developing agent; ethyl acetate:hexane=1:4), to obtain the object compound (9.2 g).

reactant | 4-acetylbenzoic acid tert-butyl ester | 7.82 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C(C)=O)=O | C13H16O3
reactant | 4-bromocrotonic acid methyl ester | 6.36 g | COC(\C=C\CBr)=O | C5H7BrO2
reactant | methyl 4-bromocrotonate | 2.13 g | BrC/C=C/C(=O)OC | C5H7BrO2
reactant | water | 300 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | 71 mmol, 4.64 g | [Zn] | Zn
catalyst | zinc | 1.55 g | [Zn] | Zn
catalyst | iodine | 20 mg | II | I2
solvent | ether | CCOCC | C4H10O
product | 5-[4-(tert-butoxycarbonyl)phenyl]-5-hydroxy-2-hexenoic acid | 9.2 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C(CC=CC(=O)O)(C)O | C17H22O5
